US07491731B2
2-{3-methoxy-4-[(4-methoxybenzyl)oxy]benzyl}-3-morpholin-4-ylprop-2-enenitrile
3-Methoxy-4-[(4-methoxybenzyl)oxy]benzaldehyde (20.0 g, 73.4 mmol) and 3-morpholinopropronitrile (Lancaster, 11.0 g, 77.1 mmol) were stirred in DMSO (15 mL) at 65 C until the mixture was homogeneous. The solution was cooled to 40 C and sodium methoxide (0.79 g, 14.7 mmol) was added. The mixture was stirred at 75 C for 15 minutes, then cooled to room temperature and diluted with dichloromethane (150 mL) and water (200 mL). 1N HCl (25 mL) was added and the two layers were seperated. The organics were combined and dried (magnesium sulfate), filtered and concentrated to a red oil (29.5 g, 73 mmol) that was used directly in the synthesis of 3-anilino-2-{3-methoxy-4-[(4-methoxybenzyl)oxy]benzyl}prop-2-enenitrile. 1H NMR (300 MHz, d6-DMSO): δ 7.38 (d, 2H), 7.03-6.95 (m,3H), 6.84 (t, J=13.5 Hz, 2H), 6.73 (d, J=8.2 Hz, 1H), 4.98 (s, 3H), 3.78 (s, 3H), 3.76 (s, 3H), 3.66-3.60 (m, 2H), 3.55-3.50 (m, 3H), 3.46-3.43 (m, 2H), 3.36 (s, 1H), 3.33-3.29 (m, 2H). MS (ES+, m/z)=395 (M+H).

reactant | 3-Methoxy-4-[(4-methoxybenzyl)oxy]benzaldehyde | 73.4 mmol, 20.0 g | COC=1C=C(C=O)C=CC1OCC1=CC=C(C=C1)OC | C16H16O4
reactant | sodium methoxide | 14.7 mmol, 0.79 g | C[O-].[Na+]
reactant | HCl | 1N, 25 mL | Cl | ClH
reactant | 3-anilino-2-{3-methoxy-4-[(4-methoxybenzyl)oxy]benzyl}prop-2-enenitrile | N(C1=CC=CC=C1)C=C(C#N)CC1=CC(=C(C=C1)OCC1=CC=C(C=C1)OC)OC | C25H24N2O3
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | water | 200 mL | O | H2O
product | 2-{3-methoxy-4-[(4-methoxybenzyl)oxy]benzyl}-3-morpholin-4-ylprop-2-enenitrile | COC=1C=C(CC(C#N)=CN2CCOCC2)C=CC1OCC1=CC=C(C=C1)OC | C23H26N2O4
